US04607041
Diethyl 4-(4-benzofurazanyl)-1,4-dihydro-2-(hydroxymethyl)-6-trifluoromethyl-3,5-pyridinedicarboxylate
A solution of diethyl 4-(4-benzofurazanyl)-2-formyl-1,4-dihydro-6-(trifluoromethyl)-3,5-pyridinedicarboxylate (1.1 g; 2.5 mmoles) in dry ethanol (90 ml) was cooled to 0° and sodium borohydride (0.14 g; 3.7 mmoles) was added portionwise over 3 minutes. After 10 minutes, 10% aqueous hydrochloric acid was added dropwise to pH3, and the mixture concentrated in vacuo at room temperature. The resulting yellow oil was dissolved in ether (50 ml) and saturated aqueous sodium bicarbonate was added to pH9. The organic solution was separated, washed with saturated aqueous sodium bicarbonate solution, water, brine and dried (MgSO4). Evaporation of the solvent left a yellow oil which was crystallised from 2-propanol to give the title compound (0.5 g) mp 110°-11°.

reactant | diethyl 4-(4-benzofurazanyl)-2-formyl-1,4-dihydro-6-(trifluoromethyl)-3,5-pyridinedicarboxylate | 2.5 mmoles, 1.1 g | N1=C2C(=NO1)C(=CC=C2)C2C(=C(NC(=C2C(=O)OCC)C(F)(F)F)C=O)C(=O)OCC | C19H16F3N3O6
reactant | sodium borohydride | 3.7 mmoles, 0.14 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | Diethyl 4-(4-benzofurazanyl)-1,4-dihydro-2-(hydroxymethyl)-6-trifluoromethyl-3,5-pyridinedicarboxylate | 0.5 g | N1=C2C(=NO1)C(=CC=C2)C2C(=C(NC(=C2C(=O)OCC)C(F)(F)F)CO)C(=O)OCC | C19H18F3N3O6
